US06600045B2
(2R, 4S)-(2-Ethyl-6-trifluoromethyl-1,2,3,4-tetrahydro-quinolin-4-yl)-carbamic Acid Benzyl Ester
A clean, dry and nitrogen gas purged flask was charged with (3R)-[3-(4-trifluoromethyl-phenylamino)-pentanoyl]-carbamic acid benzyl ester (11.51 g, 29.18 mmol) and 95% ethanol (80 mL) and the solution was cooled in an ice/acetone bath (˜−12° C.). Sodium borohydride (0.773 g, 20.4 mmol) was then added to the solution. The internal temperature of the reaction was −11.5° C. To the reaction flask was slowly added a solution of MgCl2.6H2O (6.23 g, 30.6 mmol, in 13 mL H2O). The internal temperature was maintained below −5° C. by adjusting the addition rate. Once all of the magnesium solution was added, the solution temperature was raised to 0° C. and stirred for 30 minutes. The reaction was then quenched by the addition of methylene chloride (115 mL), 1N hydrochloric acid (115 mL) and citric acid (14.02 g, 72.97 mmol). This bilayer was stirred at room temperature. After 3.75 hours, the cyclization reaction was found to be complete by HPLC analysis and the phases were separated. Water (58 mL) and citric acid (8.41 g, 43.77 mmol) were added to the organic layer and the mixture was stirred at room temperature for 45 minutes. The phases were separated and g-60 Darco® activated charcoal (1.52 g) (Atlas Powder Co., Wilmington, Del.) was added to the organic layer. After stirring for 45 minutes, the solution was filtered through Celite® and washed with methylene chloride (2×15 mL). The filtrate was then displaced with hexanes (approximately 350 mL) by distillation under atmospheric pressure and concentration of the mixture to a total volume of 230 mL. The mixture was stirred at room temperature for 14 h, filtered, and dried to afford 9.0872 g (82%) of the title compound.

reactant | (3R)-[3-(4-trifluoromethyl-phenylamino)-pentanoyl]-carbamic acid benzyl ester | 29.18 mmol, 11.51 g | C(C1=CC=CC=C1)OC(NC(C[C@@H](CC)NC1=CC=C(C=C1)C(F)(F)F)=O)=O | C20H21F3N2O3
reactant | Sodium borohydride | 20.4 mmol, 0.773 g | [BH4-].[Na+]
reactant | magnesium | [Mg] | Mg
reactant | hydrochloric acid | 1N, 115 mL | Cl | ClH
reactant | citric acid | 72.97 mmol, 14.02 g | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | citric acid | 43.77 mmol, 8.41 g | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | Water | 58 mL | O | H2O
solvent | methylene chloride | 115 mL | C(Cl)Cl | CH2Cl2
solvent | ethanol | 80 mL | C(C)O | C2H6O
product | (2R, 4S)-(2-Ethyl-6-trifluoromethyl-1,2,3,4-tetrahydro-quinolin-4-yl)-carbamic Acid Benzyl Ester | 9.0872 g, 82% | C(C1=CC=CC=C1)OC(N[C@H]1C[C@H](NC2=CC=C(C=C12)C(F)(F)F)CC)=O | C20H21F3N2O2
